US06420365B1
A solution of 872 mg (4.0 mmol) of ethyl 3-formyl-imidazolo[1,2-a]pyridine-2-carboxylate in 40 mL THF is treated at −50° C. with 4 mL (4.0 mmol) 1M 2,5-dimethoxyphenylmagnesium bromide in THF. The temperature is allowed to reach −10° C. over 3 hr, diluted with 25 mL sat. NaHCO3 and extracted with 3×50 mL ethyl acetate. The combined organics are washed with 50 mL water and 50 mL brine. The resulting organic layer is dried over anhydrous MgSO4 and the solvent removed in vacuo. The residue is flash chromatographed with 1% methanol in dichloromethane to afford 800 mg (57%) ethyl 3-[(2,5-dimethoxyphenyl)hydroxymethyl]-imidazolo[1,2-a]pyridine-2-carboxylate.

reactant | ethyl 3-formyl-imidazolo[1,2-a]pyridine-2-carboxylate | 4.0 mmol, 872 mg | C(=O)C1=C(N=C2N1C=CC=C2)C(=O)OCC | C11H10N2O3
reactant | 2,5-dimethoxyphenylmagnesium bromide | 4.0 mmol, 1M, 4 mL | COC1=C(C=C(C=C1)OC)[Mg]Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
product | ethyl 3-[(2,5-dimethoxyphenyl)hydroxymethyl]-imidazolo[1,2-a]pyridine-2-carboxylate | 800 mg, 57% | COC1=C(C=C(C=C1)OC)C(C1=C(N=C2N1C=CC=C2)C(=O)OCC)O | C19H20N2O5
